US04267179
10 Parts of 2,4-dihydro-4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-3H-1,2,4-triazol-3-one are dissolved in 300 parts of dimethyl sulfoxide at 100° C. Then there are added 1.6 parts of sodium hydride dispersion 50% and stirring is continued while the mixture is allowed to cool to about 50° C. 3.9 Parts of 1-bromopropane are added and the whole is stirred overnight at room temperature. The reaction mixture is poured onto water and the product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is triturated in 2-propanol. The product is filtered off and dried; yielding 7.5 parts (65%) of 2,4-dihydro-4-55 4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-2-propyl-3H-1,2,4 -triazol-3-one.

reactant | 2,4-dihydro-4-{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}-3H-1,2,4-triazol-3-one | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromopropane | BrCCC | C3H7Br
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-propyl-3H-1,2,4 -triazol-3-one | C(CC)N1NC=NC1=O | C5H9N3O
